US04777172
Thionyl chloride (3.4 ml) was added dropwise to a stirred solution of 2-hydroxymethyl-4-morpholinopyrimidine in chloroform (30 ml) cooled in an ice bath. The mixture was allowed to warm to room temperature and left to stand for a further 1.5 hours. The solution was reduced to low volume, and ether added with stirring to give 2-chloromethyl-4-morpholinopyrimidine hydrochloride (3.8 g) as a crystalline solid, m.p. 214°-6°.

reactant | Thionyl chloride | 3.4 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-hydroxymethyl-4-morpholinopyrimidine | OCC1=NC=CC(=N1)N1CCOCC1 | C9H13N3O2
reactant | ether | CCOCC | C4H10O
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-chloromethyl-4-morpholinopyrimidine hydrochloride | 3.8 g | Cl.ClCC1=NC=CC(=N1)N1CCOCC1 | InChI=1S/C9H12ClN3O.ClH/c10-7-8-11-2-1-9(12-8)13-3-5-14-6-4-13;/h1-2H,3-7H2;1H
